US07589095B2
Under nitrogen atmosphere, a solution (c=0.18 M) of 4-iodo-6-propyl-pyrimidine-2-carbonitrile (1 mL, 0.18 mmol) in degassed toluene, an aqueous solution (c=2 M) of potassium carbonate (0.225 mL, 0.45 mmol) and tetrakis-(triphenylphosphine) palladium (10 mg, 0.09 mmol) were successively added to a solution (c=0.216 M) of 3,4-dimethoxyphenyl boronic acid (1 ml, 0.216 mmol) in degassed toluene. The mixture was heated at 105° C. for 4 h, then was allowed to cool to room temperature and mixed with water (4 mL). The organic layer was evaporated under reduced pressure. The residue was chromatographed by preparative HPLC (H2O+0.05% TFA/CH3CN+0.05% TFA) to afford 4-(3,4-dimethoxy-phenyl)-6-propyl-pyrimidine-2-carbonitrile (28 mg).

reactant | 4-iodo-6-propyl-pyrimidine-2-carbonitrile | 0.18 mmol, 0.18 M, 1 mL | IC1=NC(=NC(=C1)CCC)C#N | C8H8IN3
reactant | potassium carbonate | 0.45 mmol, 2 M, 0.225 mL | C([O-])([O-])=O.[K+].[K+]
reactant | 3,4-dimethoxyphenyl boronic acid | 0.216 mmol, 0.216 M, 1 ml | COC=1C=C(C=CC1OC)B(O)O | C8H11BO4
reactant | water | 4 mL | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis-(triphenylphosphine) palladium | 0.09 mmol, 10 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-(3,4-dimethoxy-phenyl)-6-propyl-pyrimidine-2-carbonitrile | 28 mg | COC=1C=C(C=CC1OC)C1=NC(=NC(=C1)CCC)C#N | C16H17N3O2
